US07572809B2
Similar procedure as described in example 273 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3,5-dimethoxy-phenylamine to give N1-(3,5-dimethoxy-phenyl)-N3-(1H-pyrazol-3-yl)-isoquinoline-1,3-diamine. LC-MS m/e 362(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 3,5-dimethoxy-phenylamine | COC=1C=C(C=C(C1)OC)N | C8H11NO2
product | N1-(3,5-dimethoxy-phenyl)-N3-(1H-pyrazol-3-yl)-isoquinoline-1,3-diamine | COC=1C=C(C=C(C1)OC)NC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C20H19N5O2
